data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C(C=C1)C2C3=C(C=CC=C3)[C:20]([O:10]2)(C4=CC=CC=C4)[OH2+:21].CO.C(=O)(C(F)(F)F)[O-].[Mg+]Br>>C1=CC=C(C=C1)C2C3=C(C=CC=C3)[C:20](=[O+:10]2)C4=CC=CC=C4.[OH2:21].CO.C(=O)(C(F)(F)F)[O-].[Mg+]Br 10=20;20,21=21
CCOC(=O)C(=C(COC)[NH2:10])C1C=C(C=C[C:20]1=[O:21])O.CCOC(=O)C.CC(=O)O>>CCOC(=O)C1=C([NH2+:10][C:20]2(C1C=C(C=C2)O)[O-:21])COC.CCOC(=O)C.CC(=O)O 10=20;20,21=21
C[N+:21](=[CH:20]OP(=O)(Cl)Cl)C.[Cl-:10]>>C[N:21](C)[CH:20](OP(=O)(Cl)Cl)[Cl:10] 10=20;20,21=21
C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)N4C=N[C:20](=[N:21]4)[N+](=O)[O-].C1=CC(=CC(=C1)C#N)OCCC[O-:10].[HH].[Na+]>>C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)N4C=N[C:20]([N-:21]4)([N+](=O)[O-])[O:10]CCCOC5=CC(=CC=C5)C#N.[HH].[Na+] 10=20;20,21=21
[H:20][CH:21](C)[CH+:22]CC.CC[OH:10]>>[H:20][OH+:10]CC.CC[CH:22]=[CH:21]C 10=20;20,21=21,22
[H:20][Cl:21].CC1CCC([CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCC([C+:11]1C2=CC=CC=C2)C)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].[Li:11][O:10]C(CC#N)(C1=CC=CC=C1)C2=CC=CC=C2>>[H:20][O:10]C(CC#N)(C1=CC=CC=C1)C2=CC=CC=C2.[Li+:11].[OH2:21] 10,11=10,20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)S(=O)(=O)O)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)S(=O)(=O)O)[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
C[NH+:21]1CCO[C:20]1([O-:10])Cl>>C[NH:21]CCO[C:20](=[O:10])Cl 10=20;20,21=21
[H:20][O:21]CC1=CC=C(C=C1)C(=O)OC.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.COC(=O)C1=CC=C(C=C1)C[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
CC1CCC[CH:20]([O:10]1)[OH2+:21].[Cl-]>>CC1CCC[CH:20]=[O+:10]1.[OH2:21].[Cl-] 10=20;20,21=21
C[Si-:11](C)(C)([CH2:10][CH+:20]CC1(CCCC=C1)O[Ti-](Cl)(Cl)(Cl)Cl)Cl>>C[Si:11](C)(C)Cl.[CH2:10]=[CH:20]CC1(CCCC=C1)O[Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20
[H:20][CH2:21][S+](C)C.C[N:10]=CN(C)C>>[H:20][N+:10](=CN(C)C)C.C[S+](C)[CH2-:21] 10=20;20,21=21
[Li:10][P+:11](C)(Cl)Cl>>[Li+:10].C[P:11](Cl)Cl 10,11=11
[H:20][N:21]1C=NC(=N1)SCCCOC2=CC(=CC=C2)C#N.CC[N:10](CC)CC.C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)Cl>>[H:20][N+:10](CC)(CC)CC.C1=CC(=CC(=C1)C#N)OCCCSC2=N[N-:21]C=N2.C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)Cl 10=20;20,21=21
[H:20][C:21]12C=C(C=C[C:22]1=[NH+:23]C(=C2C(=O)OCC)COC)O.CC(=O)[O-:10].CCOC(=O)C.O>>[H:20][O:10]C(=O)C.CCOC(=O)C1=C([NH:23][C:22]2=[C:21]1C=C(C=C2)O)COC.CCOC(=O)C.O 10=20;22,23=23;20,21=21,22
[H:20][N+:21](C)(C)CCCN=C=NCC.CC[N:10]=C(NCCCN(C)C)OC(CNC(=O)OCC1C2=C(C=CC=C2)C3=C1C=CC=C3)(NC4=CC=C(C=C4I)Cl)[O-]>>[H:20][N+:10](=C(NCCCN(C)C)OC(CNC(=O)OCC1C2=C(C=CC=C2)C3=C1C=CC=C3)(NC4=CC=C(C=C4I)Cl)[O-])CC.CCN=C=NCCC[N:21](C)C 10=20;20,21=21
CC(C)C=[O:10].C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)OC(=C)C1=CC=CC=C1>>CC(C)C=[O+:10][Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)OC(=C)C1=CC=CC=C1 10=20,
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C(F)(F)F)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)C(F)(F)F)[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][Br:21].C[C:11]1=[CH:10]CCC1(C)C>>[H:20][CH:10]1CCC([C+:11]1C)(C)C.[Br-:21] 10,11=10,20;20,21=21
[H:10][AlH3-:11].C1CC2C=CCC3(CCCC2(C1)[C:20]3=[O:21])Br.[Li+]>>[H:10][C:20]1(C23CCCC2C=CCC1(CCC3)Br)[O-:21].[AlH3:11].[Li+] 10,11=10,20;20,21=21
CO[Si:20](C)(C)C.CS(=O)(=O)[O-:10]>>CO[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C 10=20,
CC(=O)CC[C:20](=[O:21])C.C1=CC=C(C=C1)C2=C(C3=C(O2)C=C(C=C3)[NH2:10])I.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=[NH+]C=C1>>CC(=O)CC[C:20](C)([NH2+:10]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=[NH+]C=C1 10=20;20,21=21
C[Si](C)(C)C=[C:11]=[CH2:10].C1=CC=C(C=C1)C[CH:20]=[O+:21][Ti-](Cl)(Cl)(Cl)Cl>>C[Si](C)(C)C=[C+:11][CH2:10][CH:20](CC1=CC=CC=C1)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
C[C+:20]=C1CCC2C1(CCC(=C(C)C)C2(C)C)C.C(=O)[O-:10].O>>CC(=C1CCC2(C(C1(C)C)CCC2=[C:20](C)[O:10]C=O)C)C.O 10=20,
[B-]([O+]=C1CCCC(CC(=C)[CH-:10]1)(C)[C+:20](C)C)(Cl)(Cl)Cl>>[B-]([O+]=C1CCCC2(CC(=C)[CH:10]1[C:20]2(C)C)C)(Cl)(Cl)Cl 10=20,
[H:20][OH+:21]CCO.[B-]([O:10]C(CC(=O)OCC)(CC(=O)OCC)OCCO)(F)(F)F.CCOCC>>C(CO)[OH:21].[H:20][O+:10]([B-](F)(F)F)C(CC(=O)OCC)(CC(=O)OCC)OCCO.CCOCC 10=20;20,21=21
[H:20][O+:21]=C1CC2CCC1(C2(C)C)CBr.C1CC(=O)[N-:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.CC1(C2CCC1(C(=[O:21])C2)CBr)C 10=20;20,21=21
CO[P:10](OC)OC.[I:20][I:21]>>CO[P+:10](OC)(OC)[I:20].[I-:21] 10=20;20,21=21
CCCC[C:20](C1=CC=CC=C1)([O-:10])[O:21]CCC.[Li+]>>CCCC[C:20](=[O:10])C1=CC=CC=C1.CCC[O-:21].[Li+] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=C[C:21](=[C:20](C=C1)[NH:10]C2=C(C=CC=C2Cl)Cl)[CH2:22][OH2+:23]>>CC1=CC=C(C=C1)S(=O)(=O)[O-].[CH2:22]=[C:21]1C=CC=C[C:20]1=[NH+:10]C2=C(C=CC=C2Cl)Cl.[OH2:23] 10=20;20,21=21,22;22,23=23
[Li-:10]([NH+:11](C(C)C)C(C)C)OC(C1=CC=CC=C1)C(C)N(C)C(=O)CC>>[Li:10]OC(C1=CC=CC=C1)C(C)N(C)C(=O)CC.CC(C)[NH:11]C(C)C 10,11=11
CC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)O[P+:20](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[OH-:10]>>CC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)O[P:20](C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[OH:10] 10=20,
